US04329465
Step F: Preparation of 5-(N-acetyl-N-methylamino)-12-methylene-5,6,7,12-tetrahydrodibenzo[a,d]cyclooctene
5-(N-Acetyl-N-methylamino)-12-methyl-5,6,7,12-tetrahydrodibenzo[a,d]cyclooctene (10.5 g., 34 mmole), dichlorodicyanobenzoquinone (9.5 g. of 98%, 41 mmole) and 750 ml. of benzene were combined and heated at reflux under nitrogen for 3.5 hours. The mixture was cooled, washed four times with 1 M sodium hydroxide solution and twice with water, dried over potassium carbonate, treated with about 0.5 g. of decolorizing carbon, filtered, and evaporated in vacuo to give 10.5 g. of brown oil.

reactant | 5-(N-Acetyl-N-methylamino)-12-methyl-5,6,7,12-tetrahydrodibenzo[a,d]cyclooctene | 34 mmole, 10.5 g | C(C)(=O)N(C)C1CCC2=C(C(C3=C1C=CC=C3)C)C=CC=C2 | C20H23NO
reactant | dichlorodicyanobenzoquinone | 41 mmole, 9.5 g | ClC1=C(C(C(=C(C1=O)C#N)C#N)=O)Cl | C8Cl2N2O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-(N-acetyl-N-methylamino)-12-methylene-5,6,7,12-tetrahydrodibenzo[a,d]cyclooctene | C(C)(=O)N(C)C1CCC2=C(C(C3=C1C=CC=C3)=C)C=CC=C2 | C20H21NO
